US08937092B2
To a stirred solution of 2-(4-cyano-3-methoxyphenyl)-N-((2-m-tolyl-6-(trifluoromethyl)pyridin-3-yl)methyl)propanamide (222 mg, 0.49 mmol) in methanol, cooled to 0° C., were added di-tert-butyl dicarbonate (220 mg, 0.98 mmol) and NiCl2.6H2O (12 mg, 0.05 mmol). Sodium borohydride (130 mg, 3.43 mmol) was then added in small portions. The resulting reaction mixture was allowed to warm to room temperature and left to stir for 1 h. Diethylenetriamine (0.05 mL, 0.49 mmol) was added to the mixture. The mixture was stirred for 1 h. The solvent was evaporated. The residue dissolved in ethyl acetate and extracted with NaHCO3. The organic layer was dried over magnesium sulfate and filtered. The filtrate removed in vacuo. The crude was purified by column chromatography. tert-Butyl 2-methoxy-4-(1-oxo-1-((2-m-tolyl-6-(trifluoromethyl)pyridin-3-yl)methylamino)propan-2-yl)benzylcarbamate (161 mg) was obtained as 59% yield.

reactant | 2-(4-cyano-3-methoxyphenyl)-N-((2-m-tolyl-6-(trifluoromethyl)pyridin-3-yl)methyl)propanamide | 0.49 mmol, 222 mg | C(#N)C1=C(C=C(C=C1)C(C(=O)NCC=1C(=NC(=CC1)C(F)(F)F)C=1C=C(C=CC1)C)C)OC | C25H22F3N3O2
reactant | di-tert-butyl dicarbonate | 0.98 mmol, 220 mg | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
reactant | Sodium borohydride | 3.43 mmol, 130 mg | [BH4-].[Na+]
reactant | Diethylenetriamine | 0.49 mmol, 0.05 mL | NCCNCCN | C4H13N3
solvent | methanol | CO | CH4O
product | tert-Butyl 2-methoxy-4-(1-oxo-1-((2-m-tolyl-6-(trifluoromethyl)pyridin-3-yl)methylamino)propan-2-yl)benzylcarbamate | 161 mg, 59% yield | COC1=C(CNC(OC(C)(C)C)=O)C=CC(=C1)C(C(NCC=1C(=NC(=CC1)C(F)(F)F)C=1C=C(C=CC1)C)=O)C | C30H34F3N3O4
